US04843163
In a process described in U.S. Pat. No. 3,326,924, 3-(2-phenethyl)-2-cyanopyridine is prepared by reacting 3-(2-phenethyl)pyridine-1-oxide with dimethylsulfate and then with aqueous sodium cyanide. A process to convert the cyanopyridine to an aza-dibenzocycloheptene by cyclizing to give the 5-keto-aza-dibenzocycloheptene, then reacting with a Grignard reagent, e.g., 1-methyl-4-piperidinyl magnesium chloride, to give a 5-(1-methyl-4-piperidinyl)aza-dibenzocycloheptene-5-ol, which is dehydrated to give the exocyclic 5-(1-methyl-piperidylidenyl) compound, e.g., azatadine, is also described in U.S. Pat. No. 3,326,924.

reactant | dimethylsulfate | COS(=O)(=O)OC | C2H6O4S
reactant | sodium cyanide | [C-]#N.[Na+]
reactant | cyanopyridine | C(#N)C1=NC=CC=C1 | C6H4N2
reactant | aza-dibenzocycloheptene | N1C=CC=C2C=CC=C3C(=C21)C=CC=C3 | C14H11N
product | 5-keto-aza-dibenzocycloheptene | O=C1C=CC2=C(C3=C1C=CC=N3)C=CC=C2 | C14H9NO
